US04226611
Ethyl N-carbobenzoxy-N-(dimethylthiophosphinylmethyl)glycine (2 g., 0.005 mole) was dissolved in 36% hydrogen bromide (8 ml) in glacial acetic acid at 0° C. and the resulting mixture was stirred for one hour. Ether was added and the oily precipitate was isolated by decanting the ether layer. The oil was washed with ether twice, then suspended in benzene and treated with propylene oxide. The solution was concentrated in vacuo to yield ethyl N-(dimethylthiophosphinylmethyl)glycine (0.7 g., 0.002 mole) as an amber oil, ND22 =1.4832.

reactant | Ethyl N-carbobenzoxy-N-(dimethylthiophosphinylmethyl)glycine | 0.005 mole, 2 g | C(C)C(N(CP(=S)(C)C)C(=O)OCC1=CC=CC=C1)C(=O)O | C15H22NO4PS
reactant | Ether | CCOCC | C4H10O
solvent | hydrogen bromide | 8 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl N-(dimethylthiophosphinylmethyl)glycine | 0.002 mole, 0.7 g | C(C)N(CC(=O)O)CP(=S)(C)C | C7H16NO2PS
